US04285867
2-Benzyloxy-1-bromo-4-(1,1-dimethylheptyl)benzene
To a -78° C. solution of 42.6 g. (0.134 mole) of 1-benzyloxy-3-(1,1-dimethylheptyl)benzene and 12.2 g. (0.200 mole) of t-butylamine in 300 ml. of dichloromethane is added a solution of 27.2 g (0.151 mole), bromine in 100 ml. of dichloromethane. The reaction mixture is then allowed to warm to 25° C. and added to 500 ml. saturated sodium sulfite and 500 ml. ether. The organic extract is washed with two 500 ml. portions of saturated sodium bicarbonate, dried over magnesium sulfate and evaporated to an oil. The crude product is purified via column chromatography on 500 g. of silica gel eluted with 10% ether-hexane to give 41.9 g. (80%) of the title compound as an oil.

reactant | 1-benzyloxy-3-(1,1-dimethylheptyl)benzene | 0.134 mole | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C(CCCCCC)(C)C | C22H30O
reactant | t-butylamine | 0.200 mole | C(C)(C)(C)N | C4H11N
reactant | bromine | BrBr | Br2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Benzyloxy-1-bromo-4-(1,1-dimethylheptyl)benzene | 80% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)Br | C22H29BrO
